US04973586
(b) 1-(3-Methoxyphenyl)-2-oxo-1,2,3,4-tetrahydronaphthalene
To a 2-phase mixture of 25.1 g (0.106 mol) of 1-(3-methoxyphenyl)-3,4-dihydronaphthalene, 20 g (0.238 mol) of sodium bicarbonate, 200 ml of water, and 400 ml of methylene chloride at 5° C. was added 24.4 g of 80-85% m-chloroperbenzoic acid portion-wise over 15 minutes. The internal temperature rose to 10° C. After the addition was complete, the mixture was stirred at 0°-5° C. for 2 hr. The layers were separated and the aqueous layer was extracted with 100 ml of methylene chloride. The combined organic layers were extracted with 200 ml of 10% sodium carbonate and then with 100 ml of water, dried over MgSO4 and evaporated to an oil. IR, NMR, and thin layer chromatography indicated the presence of a mixture of epoxide and 1,2-diol monoester. The crude mixture was stirred 3 hours at room temperature in 1M solution of sodium hydroxide in 5:1 ethanol-water. After adjusting the pH to 8 with HCl, the bulk of the solvent was evaporated. The residue was taken up in 500 ml of ether, which was then washed with 50 ml of water, dried over MgSO4, and evaporated. The oily residue was dissolved in 300 ml of dry toluene containing 0.050 g of p-toluenesulfonic acid and refluxed 3 hour in a Dean-Stark apparatus. The solution was washed with 50 ml of 5% sodium bicarbonate and with 50 ml of water, dried over MgSO4 and evaporated to give 25.1 g of the title compound, which was characterized as its 2,4-dinitrophenyl hydrazone derivative, m.p. 161°-161.5° C. (ethanol).

reactant | 1-(3-methoxyphenyl)-3,4-dihydronaphthalene | 0.106 mol, 25.1 g | COC=1C=C(C=CC1)C1=CCCC2=CC=CC=C12 | C17H16O
reactant | sodium bicarbonate | 0.238 mol, 20 g | C([O-])(O)=O.[Na+]
reactant | water | 200 ml | O | H2O
reactant | m-chloroperbenzoic acid | 24.4 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | 1-(3-Methoxyphenyl)-2-oxo-1,2,3,4-tetrahydronaphthalene | 25.1 g | COC=1C=C(C=CC1)C1C(CCC2=CC=CC=C12)=O | C17H16O2
